US08084448B2
I. 5-(2-Benzyloxy-4-phenethyloxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
A solution of 5-(2-benzyloxy-4-hydroxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (90 mg, 0.21 mmol), phenethyl alcohol (37.9 mg, 0.31 mmol), DIAD (0.0612 mL, 0.31 mmol), and triphenylphosphine (81.5 mg, 0.31 mmol) in (THF 5 mL) is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue chromatographed on a Biotage 40S column using a gradient of 80:20 to 60:40 hexane/EtOAc as eluent to afford the title compound: 1H NMR (CDCl3δ7.30 (m, 11H), 6.62 (d, J=2.8 Hz, 1H), 6.43 (dd, J=8.6, 2.8 Hz, 1H), 5.00 (s, 2H), 4.25 (s, 2H), 4.11 (t, J=7.1 Hz, 2H), 3.51 (m, 2H), 3.03 (t, J=7.1 Hz, 2H), 0.99 (m, 2H), 0.00 (s, 9H).

reactant | 5-(2-benzyloxy-4-hydroxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.21 mmol, 90 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H26N2O5SSi
reactant | phenethyl alcohol | 0.31 mmol, 37.9 mg | C(CC1=CC=CC=C1)O | C8H10O
reactant | DIAD | 0.31 mmol, 0.0612 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.31 mmol, 81.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(2-Benzyloxy-4-phenethyloxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C28H34N2O5SSi
